US07211577B2
Preparation of 2-isobutyl-4-methylaminomethyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 9(4), 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and methylamine were reacted to yield the title compound as a slightly yellow oil (yield: 94.5%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | methylamine | CN | CH5N
product | 2-isobutyl-4-methylaminomethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)CNC)C1=CC=C(C=C1)C | C17H23N3O
